US04740504
N-n-Octadecyl-N,N-Dimethylamine Borane
To a one-neck round-bottom flask (with thermometer well), equipped with magnetic stirrer, distillation head and condenser, were added 3.87 g. (0.0336 mol) triethylamine borane and 10.0 g. (0.0336 mol) N,N-dimethyloctadecylamine. With stirring, the flask was heated to slowly distill off triethylamine (max. reaction temp. 240° C). After removing 3.2 ml. of triethylamine, heating was interrupted and 10 ml. toluene added to the cooled reaction flask. Distillation was continued until 9.0 ml. were removed (last few drops removed under 15-20 mm. vacuum). The solid in the reaction flask was recrystallized from 30°-60° petroleum ether yielding 7.58 g. (72%) of white crystals, mp 56°-57.5° C. IR (Nujol) 2300 cm-1 (B-H). Anal. Calcd for C20H46BN: C, 77.14; H, 14.89; B, 3.47; N, 4.50. Found C, 77.21; H, 14.90; B, 3.36; N, 4.50.

reactant | triethylamine borane | 0.0336 mol | B.C(C)N(CC)CC
reactant | N,N-dimethyloctadecylamine | 0.0336 mol | CN(C)CCCCCCCCCCCCCCCCCC | C20H43N
product | N-n-Octadecyl-N,N-Dimethylamine Borane | B.C(CCCCCCCCCCCCCCCCC)N(C)C | InChI=1S/C20H43N.BH3/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21(2)3;/h4-20H2,1-3H3;1H3
